US06005116
(b) 4-Cyclopropyl-3-hydroxy-5-phenylisoxazole
2-Benzoyl-2-cyclopropylacetic acid methyl ester (0.9 g), hydroxylamine hydrochloride (0.6 g) and sodium methoxide (28% methanol solution, 4.0 ml) were subjected to reaction and post-treatment in a similar manner to that described in Reference example 8(b) to obtain the title compound (0.32 g, 39%) as colorless crystals.

reactant | 2-Benzoyl-2-cyclopropylacetic acid methyl ester | 0.9 g | COC(C(C1CC1)C(C1=CC=CC=C1)=O)=O | C13H14O3
reactant | hydroxylamine hydrochloride | 0.6 g | Cl.NO
reactant | sodium methoxide | 4.0 ml | C[O-].[Na+]
product | 4-Cyclopropyl-3-hydroxy-5-phenylisoxazole | 0.32 g, 39% | C1(CC1)C=1C(=NOC1C1=CC=CC=C1)O | C12H11NO2
